US04399163
A. 2-Methylthio-2,4-dimethylpentan-3-one
A solution of 200 ml. of methanol containing 9.2 g. (0.40 mole) sodium metal was cooled in an ice-bath and saturated with gaseous methyl mercaptan. To this was added 77.2 g. (0.40 mole) of 2-bromo-2,4-dimethylpentan-3-one at room temperature and the resulting mixture stirred for two hours. The reaction mixture was diluted with water, extracted with ethyl ether, the extracts washed with water, brine and dried over anhydrous sodium sulfate. The ether was evaporated and the residue distilled in vacuo to afford 50.4 g. of product, B.P. 76° (20 mm.).

reactant | methanol | 9.2 g | CO | CH4O
reactant | sodium | 0.40 mole | [Na] | Na
reactant | methyl mercaptan | CS | CH4S
reactant | 2-bromo-2,4-dimethylpentan-3-one | 0.40 mole | BrC(C)(C(C(C)C)=O)C | C7H13BrO
solvent | water | O | H2O
product | 2-Methylthio-2,4-dimethylpentan-3-one | CSC(C)(C(C(C)C)=O)C | C8H16OS
